US07829572B2
Preparation of Methyl 4-chloro-2-(trifluoromethyl)nicotinate
To a stirred solution of 4-chloro-2-(trifluoromethyl)nicotinic acid (8.75 g, 38.8 mmol) in ethyl acetate (100 mL) in an ice bath is added a solution of diazomethane [generated from 12 g (116 mmol) of N-nitroso-N-methylurea] in diethyl ether (200 mL). The solution is stirred for 15 minutes, followed by the addition of acetic acid (until effervescence stops). The solution is concentrated in vacuo to afford 9.75 g (99%) of the title compound as a brown oil: 1H NMR (400 MHz, CD3OD), 8.686 (d, 1H), 7.828 (d, 1H), 3.937 (s, 3H). LC/MS (M+1)=240.1

reactant | 4-chloro-2-(trifluoromethyl)nicotinic acid | 38.8 mmol, 8.75 g | ClC1=CC=NC(=C1C(=O)O)C(F)(F)F | C7H3ClF3NO2
reactant | diazomethane | 116 mmol, 12 g | [N+](=[N-])=C | CH2N2
reactant | N-nitroso-N-methylurea | 116 mmol | N(=O)N(C(=O)N)C | C2H5N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | Methyl 4-chloro-2-(trifluoromethyl)nicotinate | 9.75 g, 99% | ClC1=CC=NC(=C1C(=O)OC)C(F)(F)F | C8H5ClF3NO2
